US06565874B1
Poly(DL-lactide-co-glycolide) with a molar ratio of lactide to glycolide of 75/25 (Birmingham Polymer, Inc.) was dissolved in NMP to give a solution with 45% by weight polymer. This solution was filled into 3.0 cc polyproylene syringes with a male luer lock fitting and terminally sterilized by exposure to gamma irradiation at 23.2-24.6 kilograys. The polymer molecular weight after irradiation was 15,094 daltons. Leuprolide acetate was dissolved in water, sterile filtered through 0.2 mm filter and filled into a polypropylene syringe with a male luer lock fitting. The aqueous solution was frozen and the water removed by vacuum to yield a lyophilized cake of leuprolide. The two syringes were connected together with a coupler immediately prior to use and the contents of the two syringes mixed by moving the material back and forth between the two syringes for 40 cycles to provide a formulation with 6% by weight of leuprolide acetate. The product was then pulled into the syringe with the male luer lock fitting one a one-half inch 20 gauge needle attached.

reactant | glycolide | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | polyproylene | 3.0 cc | C(C(C)[*:2])[*:1]
reactant | Leuprolide acetate | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | leuprolide | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
